* source AIC EXPT 3
X_U1         N02002 N02066 N02022 N02032 N02009 uA741
V_V1         N02032 0 12Vdc
V_V2         0 N02022 12Vdc
R_R1         0 N02002  10k TC=0,0 
R_R2         N02002 N02009  10k TC=0,0 
R_R3         0 N02066  20k TC=0,0 
C_C1         N02133 N02066  0.01u  TC=0,0 
V_V3         N02133 0 DC 0Vdc AC 1Vac 
