* source AIC-EXP-5-SCHMITT_TRIGGER
V_V3         N00725 0  AC 1
+SIN 0 10V 1kHz 0 0 0
V_V2         N004872 0 12Vdc
X_U1         N00936 N00725 N004872 N004873 N00982 uA741
V_V1         0 N004873 12Vdc
R_R1         0 N00936  10k TC=0,0 
R_R2         N00982 N00936  15k TC=0,0 
