* source WEINSBRIDGE
X_U1         N00279 N00328 N000852 N000853 N00337 uA741
R_R1         N00279 0  3.3k TC=0,0 
C_C1         0 N00279  0.047u  TC=0,0 
C_C2         N00307 N00279  0.047u  TC=0,0 
R_R2         N00307 N00337  3.3k TC=0,0 
R_R3         N00328 N00337  22k TC=0,0 
V_V1         N000852 0 12Vdc
V_V2         0 N000853 12Vdc
R_R4         0 N00328  10k TC=0,0 
